US03989717
The 1-(2-dimethylaminoethyl)-6,7-dihydro-2-methylindolo[1,7-ab][1]benzazepine obtained according to part A of this Example could be reduced using sodium/ammonia and demethylated using ethyl chloroformate/alkali in either sequence to yield the trans-1,2,6,7-tetrahydro-2-methyl-1-(2-methylaminoethyl)-indolo[1,7-ab][1]benzazepine [boiling point 144°-152° C/10-4 to 10-5 mm Hg] in the same manner as described in part B of Example 2. The hydrochloride melted at 198°-200° C.

reactant | 1-(2-dimethylaminoethyl)-6,7-dihydro-2-methylindolo[1,7-ab][1]benzazepine | CN(CCC1=C(C2=CC=CC3=C2N1C1=C(CC3)C=CC=C1)C)C | C21H24N2
reactant | sodium ammonia | [Na].N
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | trans-1,2,6,7-tetrahydro-2-methyl-1-(2-methylaminoethyl)-indolo[1,7-ab][1]benzazepine | C[C@H]1[C@@H](N2C3=C(CCC4=C2C=CC=C4)C=CC=C13)CCNC | C20H24N2
